US09340555B2
To a stirred suspension of tert-butyl (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoate (70 mg, 0.10 mmol) in 5 ml of methylene chloride was added 2 ml of trifluoroacetic acid. The mixture was stirred at room temperature for 2 hours and evaporated to dryness under reduced pressure. The residue was re-dissolved in MeOH (5 ml) and poured into 100 ml of water with vigorous stirring. The precipitates were filtered, washed with water and dried in vacuo to give (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid as light yellow solid. Yield: 53 mg, 83%.

reactant | tert-butyl (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoate | 0.10 mmol, 70 mg | C(C)NC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)=O | C33H35F2N5O6S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (4S)-5-(ethylamino)-4-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid | C(C)NC([C@H](CCC(=O)O)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)=O | C29H27F2N5O6S
